US06831106B1
a) Dimethyl 4-(3-bromophenylsulphanylmethyl)phthalate
5 g (26 mmol) of 3-bromothiophenol and 9.2 g (32 mmol) of dimethyl 4-bromomethylphthalate are dissolved in 150 mL of 2-butanone. 4 g (29 mmol) of potassium carbonate are added and the mixture is brought to reflux and stirred for 2 h. The reaction medium is then filtered and concentrated under reduced pressure and the residue is purified by chromatography on a column of silica. A yellow oil (10 g) is obtained in a yield of 100%.

reactant | 3-bromothiophenol | 26 mmol, 5 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | dimethyl 4-bromomethylphthalate | 32 mmol, 9.2 g | BrCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C11H11BrO4
reactant | potassium carbonate | 29 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 150 mL | CC(CC)=O | C4H8O
product | Dimethyl 4-(3-bromophenylsulphanylmethyl)phthalate | 10 g, yield of 100% | BrC=1C=C(C=CC1)SCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C17H15BrO4S
